US07220759B2
(R)-2-hydroxymethylpyrrolidine (Tokyo Kasei Kogyo Co., Ltd.) (50 g) was dissolved in methylene chloride (500 mL), and acrylonitrile (36 mL) was added dropwise to the solution with stirring at room temperature. Subsequently, the mixture was stirred overnight at room temperature. After the completion of the reaction, the solvent was concentrated to give (R)-3-(2-hydroxymethylpyrrolidin-1-yl)propionitrile (76 g).

reactant | (R)-2-hydroxymethylpyrrolidine | 50 g | OC[C@@H]1NCCC1 | C5H11NO
reactant | acrylonitrile | 36 mL | C(C=C)#N | C3H3N
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(2-hydroxymethylpyrrolidin-1-yl)propionitrile | 76 g | OC[C@@H]1N(CCC1)CCC#N | C8H14N2O
